US06291682B1
6. 8-Methyl-1,1-dioxothiochroman-4-one-7-carboxylic acid
20 g (0.09 mol) of 8-methylthiochroman-4-one-7-carboxylic acid are dissolved in 100 ml of acetic acid. One spatula-tip full of sodium tungstate is added. 24.9 g (0.22 mol) of 30% strength hydrogen peroxide solution are then added dropwise at 50° C. Stirring is continued for one hour at RT. The reaction solution is then poured into water, during which process a precipitate is formed, which is filtered off with suction. The product is washed with water and then dried.

reactant | 8-methylthiochroman-4-one-7-carboxylic acid | 0.09 mol, 20 g | CC=1C(=CC=C2C(CCSC12)=O)C(=O)O | C11H10O3S
reactant | hydrogen peroxide | OO | H2O2
reactant | water | O | H2O
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | sodium tungstate | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 8-Methyl-1,1-dioxothiochroman-4-one-7-carboxylic acid | CC=1C(=CC=C2C(CCS(C12)(=O)=O)=O)C(=O)O | C11H10O5S
